US07696223B2
b) 1-Cyano-4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester
Prepared in analogy to that of Example 105(a) from 1-bromo-4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester and CuCN. The title compound, ESI MS (m/z): 358 (M+H)+.

reactant | 1-bromo-4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=2N(C=3C=CC=CC3C2C(=N1)Br)C1=CC=CC=C1)O | C20H15BrN2O3
reactant | CuCN | C(#N)[Cu]
product | 1-Cyano-4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=2N(C=3C=CC=CC3C2C(=N1)C#N)C1=CC=CC=C1)O | C21H15N3O3
